US06172085B2
2,3-Dihydro-7-isopropyl-2,4,6-trimethyl-2-[(4-phenyl-1-piperidinyl)methyl]-5-benzofuranamine
A suspension of 2,3-dihydro-2-(iodomethyl)-7-isopropyl-2,4,6-trimethyl-5-benzofuranamine (1.1 g), 4-phenylpiperidine (0.87 g) and potassium carbonate (0.83 g) in N,N-dimethylacetamide (6 mL) was refluxed for 4.5 hours. The mixture was diluted with water and the product was extracted twice with ethyl acetate. The combined organic layer was washed with water and saturated aqueous sodium chloride, dried over magnesium sulfate, filtrated and evaporated in vacuo. The residue was purified with basic silica gel column chromatography (hexane:ethyl acetate=30:1 to 10:1) and recrystallized from hexane/ethyl acetate to afford 0.55 g of the title compound. Yield 47%.

reactant | 2,3-dihydro-2-(iodomethyl)-7-isopropyl-2,4,6-trimethyl-5-benzofuranamine | 1.1 g | ICC1(OC2=C(C1)C(=C(C(=C2C(C)C)C)N)C)C | C15H22INO
reactant | 4-phenylpiperidine | 0.87 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | potassium carbonate | 0.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 6 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2,3-Dihydro-7-isopropyl-2,4,6-trimethyl-2-[(4-phenyl-1-piperidinyl)methyl]-5-benzofuranamine | 0.55 g, Yield 47% | C(C)(C)C1=C(C(=C(C=2CC(OC21)(CN2CCC(CC2)C2=CC=CC=C2)C)C)N)C | C26H36N2O
